US09034887B2
Thionyl chloride (2.88 mL, 39.69 mmol) was added drop wise to a solution of 2-amino-5-methyl-benzoic acid (3.0 g, 19.84 mmol) in methanol (10 mL) at 0° C. and refluxed for 16 hr. The reaction mixture was concentrated to dryness and the residue dissolved in chloroform (100 mL). The organic layer was washed with sodium bicarbonate solution (5×30 mL), water (3×30 mL), brine (3×30 mL) and dried over anhydrous sodium sulphate. The residue was concentrated under vacuum to yield the crude compound, which was purified by column chromatography over silica gel (100-200 mesh) using 2% ethyl acetate in pet ether as eluent to afford 2-amino-5-methyl-benzoic acid methyl ester (2.0 g, 61%) as a pale yellow semi solid.

reactant | Thionyl chloride | 39.69 mmol, 2.88 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-methyl-benzoic acid | 19.84 mmol, 3.0 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | methanol | 10 mL | CO | CH4O
product | 2-amino-5-methyl-benzoic acid methyl ester | 2.0 g, 61% | COC(C1=C(C=CC(=C1)C)N)=O | C9H11NO2
